US03979387
4,5-dihydro-5-methyltetrazolo[1,5-a]quinoxaline
A solution of 1 g. of 4,5-dihydrotetrazolo[1,5-a]quinoxaline and 2 g. of methyl iodide in 50 ml. of dimethoxyethane was stirred with 1.5 g. of sodium hydride, as a 50 percent suspension in mineral oil, overnight at room temperature. The reaction mixture was then filtered and evaporated under vacuum. The residue was dissolved in ethyl acetate and extracted twice with water. The brown residue which resulted on evaporation of the dried organic layer was washed with cyclohexane, leaving 0.87 g. of crude product. Two recrystallizations from ethanol produced pure 4,5-dihydro-5-methyltetrazolo[1,5-a]quinoxaline, m.p. 107°-10°C., which was identified by NMR analysis and elemental micro-analysis with the following results.

reactant | 4,5-dihydrotetrazolo[1,5-a]quinoxaline | N1=NN=C2N1C1=CC=CC=C1NC2 | C8H7N5
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 4,5-dihydro-5-methyltetrazolo[1,5-a]quinoxaline | CN1CC=2N(C3=CC=CC=C13)N=NN2 | C9H9N5
